US07385059B2
Synthesis of 4-(2-Fluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide
2-Fluorobenzoic acid (36 mg, 0.25 mmol) was added to a solution of 4-amino-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide (50 mg, 0.23 mmol), EDC (53 mg, 0.27 mmol) and HOBt (37 mg, 0.27 mmol) in DMSO (1 ml). The reaction mixture was stirred at room temperature for 24 hours and purified by preparative LC/MS. Evaporation of product-containing fractions yielded the product as a white solid (15 mg, 19%). (LC/MS: Rt 3.91, [M+H]+342.66).

reactant | 2-Fluorobenzoic acid | 0.25 mmol, 36 mg | FC1=C(C(=O)O)C=CC=C1 | C7H5FO2
reactant | 4-amino-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide | 0.23 mmol, 50 mg | FC1=CC=C(C=C1)NC(=O)C1=NNC=C1N | C10H9FN4O
reactant | EDC | 0.27 mmol, 53 mg
reactant | HOBt | 0.27 mmol, 37 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 4-(2-Fluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid (4-fluoro-phenyl)-amide | 15 mg, 19% | FC1=CC=C(C=C1)NC(=O)C1=NNC=C1NC(C1=C(C=CC=C1)F)=O | C17H12F2N4O2
